Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
substernal goiter
 
Major Surgical or Invasive Procedure:
Removal of substernal goiter, cervical approach.

 
History of Present Illness:
___ with Hx non-Hodgkins lymphoma. He has experienced increasing 
pressure in his neck and upper chest and his goiter has enlarged 
and is now retrosternal on the right.
He recently had a VATS guided pulmonary node biopsy which showed 
sarcoid. 

The patient presents today for and total thyroidectomy.
 
Past Medical History:
PMH: B cell non-Hodgkin's lymphoma of the follicular type, grade 
III, s/p chemotherapy
- HTN: 
- THYROID NODULE: irregular 1.6 x 1.2 cm thyroid nodule in right 

lobe seeen on CT scan
- ADRENAL MASS: right adrenal gland 2.2 cm cyst or adenoma
- RENAL CYSTS: Bilateral renal cysts
- Headaches
- S/P TONSILLECTOMY
 
Social History:
___
Family History:
Family History:
mother had lung cancer in her ___ but this was cured. His 
grandfather
had a cancer of unknown type. His father is healthy, and he has 
three brothers who are healthy.

 
Physical Exam:
General: NAD, resting comfortably
HEENT: Eyes anicteric. EOMI. Mucus membranes appear moist.
Negative Chvostek's sign. Slight swelling around incision, but 
no signs of hematoma. 
Chest: Non-labored breathing
Cards: RRR
Ext: warm well perfused, no ___ edema
 
Pertinent Results:
___ 07:07AM BLOOD Calcium-8.8
___ 02:43PM BLOOD PTH-___ with Hx non-Hodgkins lymphoma and multinodular goiter now 
s/p total thyroidectomy w/parathyroid to R SCM. For full details 
please refer to the operative report dictated separately. 
Postoperatively, Patient had no dysphagia or voice hoarseness 
and no symptoms of hypocalcemia. Patient admitted to floor 
overnight for observation and hospital course was stable.

Remainder of hospital course as follows:

Neuro: Pain was well controlled with Tylenol and ibuprofen as 
needed.
CV: No issues
Resp: Postoperative chest x ray in Pacu obtained and negative 
for pneumothorax, suggestive of atelectasis. Patient denied 
dyspnea and weaned to room air.
GI: Patient's diet was advanced from clears to regular diet and 
tolerated well.
GU: Patient did not have a foley. Patient voided spontaneously.
Heme: Patient was given venodyne boots  
Endocrine: Postoperatively, calcium and PTH levels were normal. 
POD #1, patient started on thyroid hormone medication, 
Levothyroxine 150 mcg daily. Patient had no symptoms of 
hypocalcemia such as tingling or numbness around mouth or toes.
Activity: Patient was ambulating independently following 
surgery.
Tubes/Lines/Drains: Patient did not have a drain.

At the time of discharge, patient was tolerating a regular diet, 
voiding, doing activity as appropriate. The patient was given 
appropriate prescriptions and instructions to followup in 
clinic.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H Duration: 7 Days  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate Duration: 7 Days 
 
3.  Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substernal goiter.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to ___ overnight for observation following 
your surgery. You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities per normal. 
Medications: You were started on thyroid hormone medication, 
take as prescribed. For pain medication you may take 
acetaminophen (Tylenol) or ibuprofen (Motrin).

Symptoms of low calcium: If you develop tingling or numbness 
around your mouth, fingertips or toes, this may be a sign of a 
low calcium and you should call our office. If you develop 
severe symptoms, please go to emergency room.

Wound care:You may shower normally starting tonight ___. 
Allow warm soapy water to run over the wound, rinse and pat dry 
gently. There is no need to keep a dressing over the wound. Do 
not apply creams or ointments. Do not submerge the wound in a 
swimming pool or bath until cleared at your follow up visit. Do  
not pull off the steri strip tapes--these will fall off by 
themselves over the next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You should use stick to foods that do not upset your stomach. 
You may need to start with small meals first and may not feel 
very hungry at first. This will improve over time. You may 
supplement your diet with protein shakes as needed if you do not 
feel you are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 

or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 
 
Best wishes,
Your ___ Care Team

 
Followup Instructions:
___